US07622469B2
4-Amino-3,6-dihydro-6-dodecyl-2-benzylamino-1,3,5-triazine hydrochloride
150 ml of ethanol, 6.5 g (32.8 mmol) of 1-tridecanal and 0.9 ml of concentrated hydrochloric acid were added to 5.0 g (22.0 mmol) of N1-benzyl-biguanide hydrochloride. The mixture was refluxed for 17 hours, and concentrated under reduced pressure to remove the solvent. The residue was dissolved in 100 ml of ethanol, and the solution was added to 50 ml of water and 10 ml of 5N aqueous sodium hydroxide. The mixture was refluxed for 2 hours, and the solvent was distilled off under reduced pressure. The residue was extracted with ethyl acetate, and the extract was washed with water. After addition of 5 ml of concentrated hydrochloric acid, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1.5)), and further recrystallized from 80% aqueous ethanol to obtain 1.2 g of colorless crystals having a melting point of 168 to 170° C.

reactant | 1-tridecanal | 32.8 mmol, 6.5 g | C(CCCCCCCCCCCC)=O | C13H26O
reactant | hydrochloric acid | 0.9 ml | Cl | ClH
reactant | N1-benzyl-biguanide hydrochloride | 22.0 mmol, 5.0 g | Cl.C(C1=CC=CC=C1)NC(=N)NC(=N)N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-Amino-3,6-dihydro-6-dodecyl-2-benzylamino-1,3,5-triazine hydrochloride | 1.2 g | Cl.NC=1NC(=NC(N1)CCCCCCCCCCCC)NCC1=CC=CC=C1 | InChI=1S/C22H37N5.ClH/c1-2-3-4-5-6-7-8-9-10-14-17-20-25-21(23)27-22(26-20)24-18-19-15-12-11-13-16-19;/h11-13,15-16,20H,2-10,14,17-18H2,1H3,(H4,23,24,25,26,27);1H
